* Extracted by KLayout with SG13G2 LVS runset on : 24/03/2026 22:42

.SUBCKT hvnmirror vss Iin Iout[0] Iout[1] Iout[2] Iout[3] Iout[4] Iout[5]
+ Iout[6] Iout[7]
M$1 vss Iin \$19 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u PD=2.38u
M$2 \$19 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$3 vss Iin \$20 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u PD=2.38u
M$4 \$20 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$5 vss Iin \$21 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u PD=2.38u
M$6 \$21 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$7 vss Iin \$22 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u PD=2.38u
M$8 \$22 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$9 vss Iin \$23 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u PD=2.38u
M$10 \$23 Iin Iout[0] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$11 vss Iin \$24 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$12 \$24 Iin Iout[1] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$13 vss Iin \$25 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$14 \$25 Iin Iout[2] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$15 vss Iin \$26 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$16 \$26 Iin Iout[3] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$17 vss Iin \$27 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$18 \$27 Iin Iout[4] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$19 vss Iin \$28 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$20 \$28 Iin Iout[5] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$21 vss Iin \$29 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$22 \$29 Iin Iout[6] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$23 vss Iin \$30 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$24 \$30 Iin Iout[7] vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u
+ PD=4.68u
M$25 vss Iin \$31 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$26 \$31 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$27 vss Iin \$32 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$28 \$32 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$29 vss Iin \$33 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$30 \$33 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
M$31 vss Iin \$34 vss sg13_hv_nmos L=10u W=2u AS=0.68p AD=0.38p PS=4.68u
+ PD=2.38u
M$32 \$34 Iin Iin vss sg13_hv_nmos L=5u W=2u AS=0.38p AD=0.68p PS=2.38u PD=4.68u
.ENDS hvnmirror
